US06599917B1
(3R)-3-[2-Benzyl-6-[(3R,4S)-3-hydroxy-4-methoxypyrrolidine-1-yl)-3-pyridyl]ethynyl-3-quinuclidinol
A mixture of 4.6 g of 2-benzyl-3-iodo-6-[(3R,4S)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine, 1.7 g of (3R)-3-ethynyl-3-quinuclidinol, 130 mg of tetrakis(triphenylphosphine)palladium(0), 110 mg of cuprous iodide and 3.1 ml of triethylamine was stirred for 5 hours at room temperature in a nitrogen atmosphere. The reaction solution was extracted with aqueous dilute ammonia-ethyl acetate, and the organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to NH-silica gel column chromatography using 0-5% methanol/ethyl acetate, to give 4.0 g of the target compound.

reactant | 2-benzyl-3-iodo-6-[(3R,4S)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine | 4.6 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]([C@H](C1)OC)O | C17H19IN2O2
reactant | (3R)-3-ethynyl-3-quinuclidinol | 1.7 g | C(#C)[C@]1(CN2CCC1CC2)O | C9H13NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 130 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | triethylamine | 3.1 ml | C(C)N(CC)CC | C6H15N
product | (3R)-3-[2-Benzyl-6-[(3R,4S)-3-hydroxy-4-methoxypyrrolidine-1-yl)-3-pyridyl]ethynyl-3-quinuclidinol | 4.0 g | C(C1=CC=CC=C1)C1=NC(=CC=C1C#C[C@]1(CN2CCC1CC2)O)N2C[C@H]([C@H](C2)OC)O | C26H31N3O3
